US09376418B2
Triethylamine (543 μL, 3.90 mmol) followed by ethyl glycinate (161 mg, 1.56 mmol) were added to a solution of 5-bromopyridine-2-sulfonyl chloride (200 mg, 0.780 mmol) in dichloromethane (2.6 mL) was added. The reaction mixture was stirred at room temperature and was monitored by LCMS. Upon completion, the reaction was diluted with saturated aqueous NH4Cl and the organic layer was dried over sodium sulfate and was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10% MeOH in DCM:hexanes) to yield ethyl N-[(5-bromopyridin-2-yl)sulfonyl]glycinate. MS APCI calc'd for C9H12BrN2O4S [M+H]+ 323 and 325. found 323 and 325.

reactant | Triethylamine | 3.90 mmol, 543 μL | C(C)N(CC)CC | C6H15N
reactant | ethyl glycinate | 1.56 mmol, 161 mg | NCC(=O)OCC | C4H9NO2
reactant | 5-bromopyridine-2-sulfonyl chloride | 0.780 mmol, 200 mg | BrC=1C=CC(=NC1)S(=O)(=O)Cl | C5H3BrClNO2S
solvent | dichloromethane | 2.6 mL | ClCCl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | ethyl N-[(5-bromopyridin-2-yl)sulfonyl]glycinate | BrC=1C=CC(=NC1)S(=O)(=O)NCC(=O)OCC | C9H11BrN2O4S
